US05051423
N-[2-[bis(Phenylmethyl)amino]ethyl]-propanamide
To a chilled solution of 5.0 g (21 mmol) N,N-dibenzylethylenediamine and 30mL (21 mmol) triethylamine in 20 mL THF is added 1.8 mL (21 mmol) propionylchloride, dropwise. The temperature of the reaction mixture is maintained below 0° C. during addition. The reaction mixture is stirred for 30minutes at 0° C. After this time, the reaction mixture is filtered and the solvents are evaporated to give the product which can be purified via column chromatography.

reactant | N,N-dibenzylethylenediamine | 21 mmol, 5.0 g | C(C1=CC=CC=C1)N(CCN)CC1=CC=CC=C1 | C16H20N2
reactant | triethylamine | 21 mmol, 30mL | C(C)N(CC)CC | C6H15N
reactant | propionylchloride | 21 mmol, 1.8 mL | C(CC)(=O)Cl | C3H5ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-[2-[bis(Phenylmethyl)amino]ethyl]-propanamide | C1(=CC=CC=C1)CN(CCNC(CC)=O)CC1=CC=CC=C1 | C19H24N2O
